US04287374
Potassium fluoride (water content 0.2%) (69.6 g; 1.2 mole) and tetradecyltrimethylammonium bromide (18 g; 0.055 mole) were added to molten 2-chloronitrobenzene (157.5 g; 1 mole) with stirring. The mixture was heated to 140° C. for 28 hours. The reaction mixture was then allowed to cool to c. 100° C. and was filtered with the assistance of added toluene. The toluene was distilled and the residue was finally distilled in high vacuum to give 2-fluoronitrobenzene in 78% yield together with 5% recovered 2-chloronitrobenzene.

reactant | Potassium fluoride | 1.2 mole, 69.6 g | [F-].[K+]
reactant | 2-chloronitrobenzene | 1 mole, 157.5 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
catalyst | tetradecyltrimethylammonium bromide | 0.055 mole, 18 g | [Br-].C(CCCCCCCCCCCCC)[N+](C)(C)C
product | 2-fluoronitrobenzene | 78% yield | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
